US07141596B2
Step 5. Methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,-dioxaborolan-2-yl)phenyl]propanoate
To a mixture of methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-(4-bromo-3-methylphenyl)propanoate (1.23 g, 3.03 mmol), 1,4-dioxane (8 mL), triethylamine (1.69 mL, 12.1 mmol), palladium acetate (17 mg, 76 μmol), O-(dicyclohexylphosphino)biphenyl (106 mg, 0.303 mmol) was added 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.10 mL, 7.57 mmol) dropwise. The greenish reaction mixture was stirred at 80° C. for 30 min. The reaction was quenched with saturated NH4Cl solution. The aqueous solution was extracted with ethyl acetate twice. The organic solutions were washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.25 g, 91%). 1H NMR (400 MHz, CDCl3): δ 7.67 (d, 1H), 7.3 (m, 5H), 6.9 (m, 2H), 5.22 (d, 1H), 5.10 (m, 2H), 4.64 (m, 1H), 3.70 (s, 3H), 3.06 (m, 2H), 2.48 (s, 3H), 1.33 (s, 12H); MF=C25H32BNO6; LCMS found for C25H33BNO6 (M+H)+: m/z=454.

reactant | methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-(4-bromo-3-methylphenyl)propanoate | 3.03 mmol, 1.23 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)Br)C | C19H20BrNO4
reactant | triethylamine | 12.1 mmol, 1.69 mL | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.57 mmol, 1.10 mL | CC1(OBOC1(C)C)C | C6H13BO2
catalyst | palladium acetate | 76 μmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | Methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,-dioxaborolan-2-yl)phenyl]propanoate | 1.25 g, 91% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C25H32BNO6
